US08357717B2
Stage (i): tert-Butyl 2-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate
1,1′-Carbonyldiimidazole (119 mg, 0.741 mmol) and 5-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylic acid (200 mg, 0.706 mmol) were dissolved in dichloromethane (5 ml) and N,N-dimethylformamide (3 ml) and stirred for 1 h at room temperature. 3-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecane dihydrochloride (322 mg, 1.059 mmol), dissolved in a mixture of dichloromethane (5 ml) and triethylamine (0.293 ml, 2.118 mmol), was then added dropwise and the reaction mixture was stirred for 3 days at room temperature. The mixture was diluted with dichloromethane (50 ml) and washed with saturated sodium hydrogen carbonate solution (3×10 ml) and with saturated sodium chloride solution (10 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel, ethyl acetate/methanol, 5:1). Yield: 280 mg (80%)

reactant | 1,1′-Carbonyldiimidazole | 0.741 mmol, 119 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylic acid | 0.706 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C(=O)O | C13H17NO4S
reactant | 3-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecane dihydrochloride | 1.059 mmol, 322 mg | Cl.Cl.N1=CC=C(C=C1)N1CCC2(CC1)CCNCC2
reactant | triethylamine | 2.118 mmol, 0.293 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 2-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate | N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)C2=CC=3CN(CCC3S2)C(=O)OC(C)(C)C)CC1 | C27H36N4O3S
